US05719141
b) 4-Tert-butoxycarbonyl-2(R,S)-methoxymethyl-3,4-dihydro-2H1,4-benzothiazine
1.9 g of 4-tert-butoxycarbonyl-2(R,S)-hydroxymethyl-3,4-dihydro-2H1,4-benzothiazine are dissolved in 20 ml of tetrahydrofuran, and 1.5 g of a 20% potassium hydride suspension in oil are added at 0° C. 1.3 ml of methyl iodide are then added dropwise. The mixture is allowed to warm to room temperature and, when the reaction has ended, the mixture is poured onto water. After customary working up, the crude product is purified over 250 g of silica gel by means of FC (methylene chloride as the mobile phase): Rf (D)=0.45.

reactant | 4-tert-butoxycarbonyl-2(R,S)-hydroxymethyl-3,4-dihydro-2H1,4-benzothiazine | 1.9 g | C(C)(C)(C)OC(=O)N1CC(SC2=C1C=CC=C2)CO | C14H19NO3S
reactant | potassium hydride | [H-].[K+]
reactant | methyl iodide | 1.3 ml | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Tert-butoxycarbonyl-2(R,S)-methoxymethyl-3,4-dihydro-2H1,4-benzothiazine | C(C)(C)(C)OC(=O)N1CC(SC2=C1C=CC=C2)COC | C15H21NO3S
